US07671063B2
A solution of 2,2-dimethyl-N-(4-sulfamoyl-benzo[1,3]dioxol-5-yl)-propionamide (800 mg, 2.7 mmol) in 1,2 dimethoxyethan (15 ml) and conc. HCl (15 ml) is stirred at 90° C. for 5 h. The pH is adjusted to 10, the mixture extracted with EtOAc and washed with brine, followed by drying (Na2SO4), evaporation of volatiles and crystallization (CH2CI2/MeOH) which affords 5-amino-benzo[1,3]dioxole-4-sulfonic acid amide.

reactant | 2,2-dimethyl-N-(4-sulfamoyl-benzo[1,3]dioxol-5-yl)-propionamide | 2.7 mmol, 800 mg | CC(C(=O)NC1=C(C2=C(OCO2)C=C1)S(N)(=O)=O)(C)C | C12H16N2O5S
solvent | 1,2 dimethoxyethan | 15 ml | COCCOC | C4H10O2
solvent | HCl | 15 ml | Cl | ClH
product | 5-amino-benzo[1,3]dioxole-4-sulfonic acid amide | NC1=C(C2=C(OCO2)C=C1)S(=O)(=O)N | C7H8N2O4S
